US07456164B2
4-[4-(2,2-Dimethyl-3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-pyran-4-carbonitrile
4-(4-Hydroxy-phenyl)-tetrahydro-pyran-4-carbonitrile (1.29 g, 6.4 mmol), 2,2-dimethyl-3-pyrrolidin-1-yl-propan-1-ol (0.8 g, 5.1 mmol), PPh3 (1.67 g, 6.4 mmol), THF (16 ml) and DIAD (1.25 ml, 6.4 mmol) were reacted together according to general procedure H. The crude material was subjected to chromatography on silica eluting with DCM:MeOH (98:2). The resulting solid was slurried in TBME:heptanes (1:2, 1 ml) to provide the title compound (120 mg, 5%) as a white solid. 1H NMR (400 MHz, CDCl3), δ 7.37 (d, 2H), 6.94 (d, 2H), 4.12-4.03 (m, 2H), 3.89 (td, 2H), 3.71 (s, 2H), 2.57 (br s, 4H), 2.47 (s, 2H), 2.15-1.99 (m, 4H), 1.70 (brs, 4H), 1.00 (s, 6H).

reactant | 4-(4-Hydroxy-phenyl)-tetrahydro-pyran-4-carbonitrile | 6.4 mmol, 1.29 g | OC1=CC=C(C=C1)C1(CCOCC1)C#N | C12H13NO2
reactant | 2,2-dimethyl-3-pyrrolidin-1-yl-propan-1-ol | 5.1 mmol, 0.8 g | CC(CO)(CN1CCCC1)C | C9H19NO
reactant | PPh3 | 6.4 mmol, 1.67 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 6.4 mmol, 1.25 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | DCM MeOH | C(Cl)Cl.CO
solvent | THF | 16 ml | C1CCOC1 | C4H8O
product | 4-[4-(2,2-Dimethyl-3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-pyran-4-carbonitrile | 120 mg, 5% | CC(COC1=CC=C(C=C1)C1(CCOCC1)C#N)(CN1CCCC1)C | C21H30N2O2
